US07579488B2
E. 1-{4-[1-(6-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one.
4-[1-(6-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol (5.50 g, 13.7 mmol) and 1-bromopinacolone (4.92 g, 27.5 mmol) and K2CO3 (3.80 g, 27.5 mmol) are reacted analogous to Example 1E to give the title compound as a pale yellow oil (5.90 g, 86%).

reactant | 4-[1-(6-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenol | 13.7 mmol, 5.50 g | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(C=C2)O)C)C=C1 | C27H28O3
reactant | 1-bromopinacolone | 27.5 mmol, 4.92 g | BrCC(C(C)(C)C)=O | C6H11BrO
reactant | K2CO3 | 27.5 mmol, 3.80 g | C(=O)([O-])[O-].[K+].[K+]
product | 1-{4-[1-(6-Benzyloxy-benzofuran-2-yl)-1-ethyl-propyl]-2-methyl-phenoxy}-3,3-dimethyl-butan-2-one | 5.90 g, 86% | C(C1=CC=CC=C1)OC1=CC2=C(C=C(O2)C(CC)(CC)C2=CC(=C(OCC(C(C)(C)C)=O)C=C2)C)C=C1 | C33H38O4
